US07951824B2
5,6′-Dimethyl-[3,4′]bipyridinyl-2′-carboxylic acid (2-chloro-pyridin-4-yl)-amide
The title compound, was prepared from 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (2-chloro-pyridin-4-yl)-amide in accordance with the general method of example 131, step 2 using 3-Bromo-5-methylpyridine instead of 3-Trifluoromethyl-5-bromopyridine to yield the final compound as a white solid, MS (ISP): m/e=339.1, 341.1 (M+H)+.

reactant | 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine-2-carboxylic acid (2-chloro-pyridin-4-yl)-amide | ClC1=NC=CC(=C1)NC(=O)C1=NC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C18H21BClN3O3
reactant | 3-Bromo-5-methylpyridine | BrC=1C=NC=C(C1)C | C6H6BrN
product | 5,6′-Dimethyl-[3,4′]bipyridinyl-2′-carboxylic acid (2-chloro-pyridin-4-yl)-amide | ClC1=NC=CC(=C1)NC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)C)C | C18H15ClN4O
